US06713517B1
Ethyl 4-amino-3-chlorobenzoate (2).
Ethyl p-aminobenzoate, 49.50 g (0.30 moles) was dissolved in 500 ml of acetonitrile (CH3CH) and heated to ref lux. When the mixture became homogeneous, 42.0 g (0.315 moles) of N-chlorosuccinimide was added in several portions over one hour and the mixture was stirred at reflux overnight. By TLC (Hexane: EtOAc, 3:1), the mixture contained no starting material but only the desired product (Rf=0.55) and a minor impurity, which was probably dichlorinated material (Rf=0.65). The mixture was concentrated on a rotary evaporator and the residue was redissolved in 250 mL of dichloromethane (CH2Cl2) and washed twice with 100 mL of 5% sodium hydroxide (NaOH). The organic layer was dried over anhydrous potassium carbonate (K2CO3) and concentrated on a rotary evaporator to yield 62.0 g of a reddish brown solid. The solid was recrystallized from 1.25 L of boiling hexane to give 52 g of a brown solid. The solid was recrystallized twice more from 1 L of boiling hexane to give 45.5 g (76%) of tan solid ethyl 4-amino-3-chlorobenzoate (2), mp 82-83° C. and homogeneous by TLC. Additional material, 9.6 g (16%) of like quality, was obtained by repeated recrystallization from hexane. The total yield of pure ethyl 4-amino-3-chlorobenzoate (2) was 92%. 1H NMR (CDCl3) d 7.97-7.96 (t, 1H, J=0.7 Hz, ArH), 7.80-7.75 (dt, 1H, J=0.7 Hz, ArH), 6.77-6.73 (dd, 1H, J=0.5 Hz, ArH), 4.40-4.29 (q, 2H, J=2.8 Hz, OCH2), 1.41-1.34 (t, J=2.8 Hz, 2H, OCH2CH3). IR (KBr) cm−1, 3500, 3370 (NH2, m), 1695, (C═O, s) 1630. MS (El) m/e 199 (M+), 201 (M+2), Anal. Calc'd for C9H10NO2. Cl: C, 54.15; H, 5.05: N, 7.02. Fd. C, 54.14; H, 5.17, N, 6.93.

reactant | Ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | N-chlorosuccinimide | 0.315 moles, 42.0 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Hexane | CCCCCC | C6H14
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | Ethyl 4-amino-3-chlorobenzoate | NC1=C(C=C(C(=O)OCC)C=C1)Cl | C9H10ClNO2
